US06403586B1
Preparation of 4-Carboxy-2-(4-chlorocinnamyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one
To a suspension of 2-(4-chlorocinnamyl)-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one (1.35 g, 3.29 mmol) in methanol (50 ml), a 4N aqueous solution of sodium hydroxide (20 ml) was added at room temperature, followed by stirring at the same temperature for 30 minutes. The methanol was distilled off under reduced pressure, and water (100 ml) was added to the residue. The mixture was acidified with hydrochloric acid under ice-water cooling, followed by extraction with chloroform. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The solvent was distilled off, whereby the title compound (1.30 g, 99.7%) was obtained as yellow crystals.

reactant | 2-(4-chlorocinnamyl)-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | 3.29 mmol, 1.35 g | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)C(=O)OC)C2=CC=C(C=C2)OC)C=C1 | C22H19ClN2O4
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-Carboxy-2-(4-chlorocinnamyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one | 1.30 g, 99.7% | C(=O)(O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC=CC1=CC=C(C=C1)Cl)=O | C21H17ClN2O4
